US08106064B2
5-Bromo-4-chloro-2,6-dimethoxy-pyrimidine:
4-Chloro-2,6-dimethoxy-pyrimidine (2.2 g, 12.6 mmol) and sodium bicarbonate (2.39 g, 28.4 mmol) were stirred in aqueous methanol (50%, 40 mL) at room temperature. Bromine (3.52 g, 22.0 mmol) was added dropwise over a period of 60 minutes. After the addition was complete, stirring was continued or additional 60 minutes. The solid was collected and was washed with water to yield 6.2 g of crude material. 3.1 g of the crude material were dissolved in hot methanol (40 mL) and water (10 mL) was added. The resultant precipitate was collected and dried in vacuo to yield the product (1.0 g, 3.95 mmol). 1H (CDCl3): δ=4.05 (s, 3H), 3.99 (s, 3H) ppm.

reactant | 4-Chloro-2,6-dimethoxy-pyrimidine | 12.6 mmol, 2.2 g | ClC1=NC(=NC(=C1)OC)OC | C6H7ClN2O2
reactant | sodium bicarbonate | 28.4 mmol, 2.39 g | C([O-])(O)=O.[Na+]
reactant | Bromine | 22.0 mmol, 3.52 g | BrBr | Br2
reactant | water | 10 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | 5-Bromo-4-chloro-2,6-dimethoxy-pyrimidine | 3.95 mmol, 1.0 g | BrC=1C(=NC(=NC1OC)OC)Cl | C6H6BrClN2O2
